US06548495B2
[4-(3-Imidazol-1-yl-phenyl)-8-iodo-2-oxo-2,3-dihydro-1H-benzo[b][1,4]diazepin-7-yl]-acetonitrile
The title compound was prepared from {5-cyanomethyl-2-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-4-iodo-phenyl}-carbamic acid tert.-butyl ester (Example M21) (520 mg, 0.89 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light pink solid (297 mg).

reactant | {5-cyanomethyl-2-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-4-iodo-phenyl}-carbamic acid tert.-butyl ester | 0.89 mmol, 520 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)CC#N)I)NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)=O | C25H24IN5O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [4-(3-Imidazol-1-yl-phenyl)-8-iodo-2-oxo-2,3-dihydro-1H-benzo[b][1,4]diazepin-7-yl]-acetonitrile | N1(C=NC=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)CC#N)I | C20H14IN5O
